US06172057B2
2-[(4-Bromobenzyl)-(2-hydroxy-ethyl)-amino]-ethanol was prepared according to the general method as outlined in example 83. Starting from diethanolamine (22.5 g, 150 mmol). and 4-bromobenzyl bromide (25 g, 100 mmol). Yield 33.66 g, (99%); yellow oil; MS: 273.8 (M+H)+.

reactant | diethanolamine | 150 mmol, 22.5 g | N(CCO)CCO | C4H11NO2
reactant | 4-bromobenzyl bromide | 100 mmol, 25 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
product | 2-[(4-Bromobenzyl)-(2-hydroxy-ethyl)-amino]-ethanol | BrC1=CC=C(CN(CCO)CCO)C=C1 | C11H16BrNO2
